### PR TITLE
Feat/neutrino 01

### PR DESCRIPTION
**Pull request by PrabhodaCS**
feat(neutrino-01): Added first version of neutrino oscillation setup

- Added Basic.lean with phase shift definitions
- Lays groundwork for PMNS formalization

### CODE REVIEW

**Comment by jstoobysmith** [comment]
Hey, so the 'linters' I was talking about can be run locally via (they also appear as GithHub workflows at the bottom of this PR page): 

```
lake exe lint_all
```
(the first step of this can be run using `lake exe style_lint`)

```
./scripts/lint-style.sh 
```

The module documentation linter is
```
lake exe module_doc_lint
```
 Don't worry too much about this one though, but I would be interested to know if the instructions are clear.
 
 I'm happy to help with any of this if you get stuck. Let me know.

File: PhysLean/Particles/NeutrinoPhysics/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,78 @@
...
+  Matrix.conjTranspose_apply,
+  ← exp_conj,
+  ← exp_add]
+  ⟩
+
+/-- The Lepton phase shift matrix as a `3×3` complex matrix, given three reals `a b c`.
+This dictates the phase shift freedom of the charged lepton sector.
+-/
+
+def LeptonPhaseShift (a b c : ℝ) : Matrix (Fin 3) (Fin 3) ℂ :=
```
Comment (jstoobysmith) [inline PhysLean/Particles/NeutrinoPhysics/Basic.lean]: These definition are probably best starting with lower cases. The general rule is that definitions start with a lower case letter, unless they correspond to a type or a prop.

File: PhysLean/Particles/NeutrinoPhysics/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+  diagPhase (fun i => if i = 0 then a else if i = 1 then b else c)
+
+/-- The neutrino phase shift matrix as a `3×3` complex matrix, given three reals `d e f`.
+This dictates the phase shift freedom of the neutrino sector (If neutrinos are Dirac).
+-/
+
```
Comment (jstoobysmith) [inline PhysLean/Particles/NeutrinoPhysics/Basic.lean]: I would remove these spaces between the doc-strings and the definition. (I aware that these comments are somewhat pedantic, unfortunately it is all to do with 'conventions')

File: PhysLean/Particles/NeutrinoPhysics/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,78 @@
...
+noncomputable section
+
+/-- diagonal phase matrix from a real-valued function on indices -/
+@[simp]
+def diagPhase (θ : Fin 3 → ℝ) : Matrix (Fin 3) (Fin 3) ℂ :=
+  λ i j => if i = j then cexp (I * θ i) else 0
+
+/-- lemma stating that the diagonal phase matrix with all zeros is the identity matrix -/
+lemma diagPhase_zero:
+  diagPhase (fun _ : Fin 3 => 0) = 1 := by
```
Comment (jstoobysmith) [inline PhysLean/Particles/NeutrinoPhysics/Basic.lean]: The second line of each of these lemmas needs to be indented by two more spaces for the linters to pass. It is the `./scripts/lint-style.sh` linter which is failing. 

E.g. 

```
lemma diagPhase_zero:
    diagPhase (fun _ : Fin 3 => 0) = 1 := by
  ext i j...
```

File: .github/copilot-instructions.md [hunk 4]
```diff
@@ -0,0 +1,67 @@
+## Quick orientation for AI coding agents
```
Comment (jstoobysmith) [inline .github/copilot-instructions.md]: I'm happy to include this file. Out of interest, did you find it helped?

Comment (jstoobysmith) [reply .github/copilot-instructions.md]: That said, I think there are some things we could improve in this. Maybe we could:
1. Start a discussion on the Lean zulip about such a file, 
2. For now remove this from this PR.

Comment (PrabhodaCS) [reply .github/copilot-instructions.md]: No, I pushed that file by mistake while pushing the entire folder. I was using copilot to understand some of the code and it seemed to have created this file.

File: PhysLean/Particles/NeutrinoPhysics/Basic.lean (hunk 3 above)
Comment (PrabhodaCS) [reply PhysLean/Particles/NeutrinoPhysics/Basic.lean]: I ran the linter sequence based on your first comment, and it did not flag this. I will correct all of this and ensure it's within the conventions before I send my next pull request of the same code
